US05998140
4-Nitro-2-trichloroacetyl-1-methylpyrrole
To a well stirred solution of trichloroacetyl chloride (1 kg, 5.5 mole) in 1.5 liter ethyl ether in a 12 liter flask was added dropwise over a period of 3 h a solution of N-methylpyrrole (0.45 kg, 5.5 mole) in 1.5 liter anhydrous ethyl ether. The reaction was stirred for an additional 3 hours and quenched by the dropwise addition of a solution of 400 g potassium carbonate in 1.5 liters water. The layers were separated and the ether layer concentrated in vacuo to provide 2-(trichloroacetyl)pyrrole (1.2 kg, 5.1 mol) as a yellow crystalline solid sufficiently pure to be used without further purification. To a cooled (-40° C.) solution of 2-(trichloroacetyl) pyrrole (1.2 kg, 5.1 mol) in acetic anhydride (6 L) in a 12 L flask equipped with a mechanical stirrer was added 440 mL fuming nitric acid over a period of 1 hour while maintaining a temperature of (-40° C.). The reaction was carefully allowed to warm to room temperature and stir an additional 4 h. The mixture was cooled to -30° C., and isopropyl alcohol (6 L) added. The solution was stirred at -20° C. for 30 min during which time a white precipitate forms. The solution was allowed to stand for 15 min and the resulting precipitate collected by vacuum filtration.

reactant | 2-(trichloroacetyl) pyrrole | 5.1 mol, 1.2 kg | ClC(C(=O)C=1NC=CC1)(Cl)Cl | C6H4Cl3NO
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | isopropyl alcohol | 6 L | C(C)(C)O | C3H8O
solvent | acetic anhydride | 6 L | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Nitro-2-trichloroacetyl-1-methylpyrrole | [N+](=O)([O-])C=1C=C(N(C1)C)C(C(Cl)(Cl)Cl)=O | C7H5Cl3N2O3
